US04007173
A mixture of m-nitrophenylglycine (58.0 g, 0.296 mol), MgO (23.92 g, 0.6 mol) and t-butoxylcarbonyl azide (85.2 g, 0.6 mol) in 50% aqueous dioxane (700 ml) was heated at 45° for 17 hours. The reaction was cooled, water (750 ml) was added, and the mixture was filtered. The filtrate was washed with ether (1000 ml), acidified to pH 3 with 40% H3PO4, and extracted with ethyl acetate. The dried extracts were evaporated to give α-t-butoxycarbonylamino-m-nitrophenylacetic acid (70.3 g).

reactant | m-nitrophenylglycine | 0.296 mol, 58.0 g | [N+](=O)([O-])C=1C=C(C=CC1)NCC(=O)O | C8H8N2O4
reactant | t-butoxylcarbonyl azide | 0.6 mol, 85.2 g | O(C(C)(C)C)C(=O)N=[N+]=[N-] | C5H9N3O2
reactant | water | 750 ml | O | H2O
reactant | dioxane | 700 ml | O1CCOCC1 | C4H8O2
product | α-t-butoxycarbonylamino-m-nitrophenylacetic acid | 70.3 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H16N2O6
